US06287794B1
H-Thr(Bzl)-NH—CH2—CH2—CH(Ph)2.HCl
0.62 g (2 mmol) of Boc-Thr(Bzl)-OH were dissolved in 10 ml DCM, 2 mmol of triethylamine were added and the solution was cooled to 0° C. With stirring, 2 mmol of isobutyl chloroformate were slowly added. The cooling bath was removed, the solution was stirred for 15 minutes and 2.5 mmol of 3,3-diphenylpropylamine in 2 ml of DMF were added and stirred at room temperature for 1 hour. The solution was evaporated, dissolved in ethyl acetate and extracted with 0.5M KHSO4 solution, sat. NaHCO3 solution and brine, dried with MgSO4 and evaporated. The oily product was dissolved in 10 ml of DCM, and 10 ml of a 4M solution of hydrochloric acid in dioxane were added. After 10 minutes the solvents were evaporated, the product hydrochloride was precipitated with diethyl ether, filtered off, washed with diethyl ether and dried in vacuo to give a white solid. MS analysis: (M+H)+: found 403.1, calc. 403.2.

reactant | Boc-Thr(Bzl)-OH | 2 mmol, 0.62 g | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)O)C(=O)OC(C)(C)C | C16H23NO5
reactant | triethylamine | 2 mmol | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 2 mmol | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 3,3-diphenylpropylamine | 2.5 mmol | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | H-Thr(Bzl)-NH—CH2—CH2—CH(Ph)2.HCl | N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)NCCC(C1=CC=CC=C1)C1=CC=CC=C1.Cl | InChI=1S/C26H30N2O2.ClH/c1-20(30-19-21-11-5-2-6-12-21)25(27)26(29)28-18-17-24(22-13-7-3-8-14-22)23-15-9-4-10-16-23;/h2-16,20,24-25H,17-19,27H2,1H3,(H,28,29);1H/t20-,25+;/m1./s1
